US08859591B2
To a 0° C. solution of 3,3-dimethylcyclobutanecarboxylic acid (1.35 g, 10.5 mmol) in dichloromethane (10 mL) was slowly added oxalyl chloride (4.01 g, 31.6 mmol) and 1 drop of N,N-dimethylformamide. The reaction was warmed to room temperature and stirred for 2 hours. The reaction was concentrated in vacuo to give crude 3,3-dimethylcyclobutanecarbonylchloride (1.54 g) as a yellow oil.

reactant | 3,3-dimethylcyclobutanecarboxylic acid | 10.5 mmol, 1.35 g | CC1(CC(C1)C(=O)O)C | C7H12O2
reactant | oxalyl chloride | 31.6 mmol, 4.01 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 3,3-dimethylcyclobutanecarbonylchloride | 1.54 g | CC1(CC(C1)C(=O)Cl)C | C7H11ClO
